US05446042
Preparation of 1-[(4-methoxyphenyl)carbonylmethyl]-4-(3H,6H-1,3,4-thiadiazin-2-one-5-yl)pyridinium bromide (Intermediate 39)
5-(4-Pyridyl)-3H,6H-1,3,4-thiadiazin-2-one (386 mg, 2 mmol) and 4'-methoxyphenacyl bromide (550 mg, 2.4 mmol) were dissolved in absolute ethanol (6 ml), refluxed for three hours and then stirred at room temperature overnight. The resulting precipitate was collected by filtration and washed with absolute ethanol to obtain the titled compound (814 mg) as light brown powder.

reactant | 5-(4-Pyridyl)-3H,6H-1,3,4-thiadiazin-2-one | 2 mmol, 386 mg | N1=CC=C(C=C1)C1=NNC(SC1)=O | C8H7N3OS
reactant | 4'-methoxyphenacyl bromide | 2.4 mmol, 550 mg | COC1=CC=C(C=C1)C(=O)CBr | C9H9BrO2
solvent | ethanol | 6 ml | C(C)O | C2H6O
product | 1-[(4-methoxyphenyl)carbonylmethyl]-4-(3H,6H-1,3,4-thiadiazin-2-one-5-yl)pyridinium bromide | 814 mg, Yield: 96.4% | [Br-].COC1=CC=C(C=C1)C(=O)C[N+]1=CC=C(C=C1)C1=NNC(SC1)=O | InChI=1S/C17H15N3O3S.BrH/c1-23-14-4-2-13(3-5-14)16(21)10-20-8-6-12(7-9-20)15-11-24-17(22)19-18-15;/h2-9H,10-11H2,1H3;1H
